US07317125B2
Preparation of tetrahydro-thiopyran-4-carboxylic acid N′-[2-(5-fluoro-2′-trifluoromethoxy-biphenyl-2-yloxy)-acetyl]-N′-isopropyl hydrazide
A solution of tetrahydro-thiopyran-4-carboxylic acid N′-[2-(2-bromo-4-fluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide (116 mg, 0.27 mmol) in DME (2.5 ml)/2M Na2CO3 (0.468 ml, 0.94 mmol) was treated with 2-trifluoromethoxyphenylboronic acid (83 mg, 0.40 mmol) and Pd[PPh3]4 (62 mg, 0.053 mmol) in a microwave oven at 150° C., for 10 min. The reaction mixture was partitioned between water and dichloromethane. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated. The crude was adsorbed on silica and purified on a silica gel column with a 30-50% ethyl acetate/hexane gradient to afford the product as a solid (62.6 mg, 45%). MS m/e 515.48 (M+H+)

reactant | tetrahydro-thiopyran-4-carboxylic acid N′-[2-(2-bromo-4-fluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide | 0.27 mmol, 116 mg | BrC1=C(OCC(=O)N(NC(=O)C2CCSCC2)C(C)C)C=CC(=C1)F | C17H22BrFN2O3S
reactant | Na2CO3 | 0.94 mmol, 2M, 0.468 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-trifluoromethoxyphenylboronic acid | 0.40 mmol, 83 mg | FC(OC1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O3
solvent | DME | 2.5 ml | COCCOC | C4H10O2
product | tetrahydro-thiopyran-4-carboxylic acid N′-[2-(5-fluoro-2′-trifluoromethoxy-biphenyl-2-yloxy)-acetyl]-N′-isopropyl hydrazide | 62.6 mg, 45% | FC=1C=CC(=C(C1)C1=C(C=CC=C1)OC(F)(F)F)OCC(=O)N(NC(=O)C1CCSCC1)C(C)C | C24H26F4N2O4S
